US05223513
To a mixture of 2-amino-2'-chloro-1,5-dimethylbenzophenone (4.0 g), triethylamine (4.3 ml) and ethyl acetate (80 ml) was dropwise added methyl malonyl chloride (3.77 g) under ice-cooling and stirring. The stirring was continued for an hour under ice-cooling. The reaction mixture was washed with water, dried (MgSO4) and distilled to remove the solvent. The oily residue was dissolved in toluene (60 ml), followed by addition of piperidine (0.4 ml). The solution was heated for an hour with removal of water using Dean-Stark's apparatus. Then, the solution was washed with water, dried (MgSO4) and concentrated to obtain crystals of methyl 4-(2-chlorophenyl)-1,2-dihydro-6,7-dimethyl-2-oxo-3-quinolinecarboxylate (4.40 g, 83.7%). Recrystallization from ethanol - chloroform gave colorless prisms. mp 288°-289° C.

reactant | 2-amino-2'-chloro-1,5-dimethylbenzophenone | 4.0 g | NC1C(C(=O)C2=C(C=CC=C2)Cl)(C=C(C=C1)C)C | C15H16ClNO
reactant | triethylamine | 4.3 ml | C(C)N(CC)CC | C6H15N
reactant | methyl malonyl chloride | 3.77 g | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-(2-chlorophenyl)-1,2-dihydro-6,7-dimethyl-2-oxo-3-quinolinecarboxylate | 4.40 g, 83.7% | ClC1=C(C=CC=C1)C1=C(C(NC2=CC(=C(C=C12)C)C)=O)C(=O)OC | C19H16ClNO3
